US04822801
[[Cyclopropyl[6-[4-(ethoxycarbonyl)-1-piperazinyl]-5-fluoro-2-pyridinylamino]methylene]propanedioic Acid, Diethyl Ester
A solution of 3.8 g (12.3 mmole) of 4-[6-(cyclo- propylamino)-3-fluoro-2-pyridinyl]-1-piperazine carboxylic acid, ethyl ester, 2.7 g (12.3 mmole) of diethyl(ethoxymethylene)malonate and 50 ml of xylene was refluxed for 24 hours. The solvent was removed in vacuo and the residue was chromatograhed over silica gel eluting with chloroform/ethyl acetate (80/20) to give 2.3 g of the title compound as a viscous oil which was used without further purification.

reactant | 4-[6-(cyclo- propylamino)-3-fluoro-2-pyridinyl]-1-piperazine carboxylic acid, ethyl ester | 12.3 mmole, 3.8 g | C1(CC1)NC1=CC=C(C(=N1)N1CCN(CC1)C(=O)OCC)F | C15H21FN4O2
reactant | diethyl(ethoxymethylene)malonate | 12.3 mmole, 2.7 g | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
reactant | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | [Cyclopropyl[6-[4-(ethoxycarbonyl)-1-piperazinyl]-5-fluoro-2-pyridinylamino]methylene]propanedioic Acid, Diethyl Ester | 2.3 g | C1(CC1)C(NC1=NC(=C(C=C1)F)N1CCN(CC1)C(=O)OCC)=C(C(=O)OCC)C(=O)OCC | C23H31FN4O6
